US08304438B2
(a) 3-[5-(2-Fluoro-phenyl)-thiophen-2-yl]-acrylic Acid
9.38 g (40.2 mmol) of 3-(5-Bromo-thiophen-2-yl)-acrylic acid and 6.97 g (6 mmol) of tetrakis(triphenylphosphine)palladium were dissolved in 50 ml of degassed DME and stirred for 10 min at room temperature. 8.44 g (60.4 mmol) of 2-fluorophenylboronic acid and 50 ml of a 2 M aqueous sodium carbonate solution were added together with an additional 5 ml of degassed DME. The reaction mixture was heated to 95° C. for 4 h, and then stirred at room temperature for 16 h. The product precipitated partially from the reaction solution and was collected by filtration. This solid was boiled for 1 h in ethyl acetate and filtered while hot. The solvent was removed under reduced pressure. The remaining reaction solution was evaporated to dryness. The residue was taken up in ethyl acetate/water and filtered. The organic phase was dried with sodium sulfate, filtered and the solvent was removed under reduced pressure. The combined product was purified by silica gel chromatography. Yield: 7.5 g.

reactant | 3-(5-Bromo-thiophen-2-yl)-acrylic acid | 40.2 mmol, 9.38 g | BrC1=CC=C(S1)C=CC(=O)O | C7H5BrO2S
reactant | 2-fluorophenylboronic acid | 60.4 mmol, 8.44 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 2 M | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 50 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 6 mmol, 6.97 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | 5 ml | COCCOC | C4H10O2
product | 3-[5-(2-Fluoro-phenyl)-thiophen-2-yl]-acrylic Acid | FC1=C(C=CC=C1)C1=CC=C(S1)C=CC(=O)O | C13H9FO2S
